US07022705B2
(5RS)-3-(3-Fluoro-4-thiomorpholin-4-ylphenyl)-5-(1,2,3-triazol-1-ylmethyl)-4,5-dihydroisoxazole
A mixture of (5RS)-3-(3,4-difluorophenyl)-5-(1,2,3-triazol-1-ylmethyl)-4,5-dihydroisoxazole (528 mg, 2 mM), potassium carbonate (414 mg, 3 mM), and thiomorpholine (7.5 ml) was heated under nitrogen at 130° for 40 hours. After cooling, the mixture was partitioned between water (150 ml) and ethyl acetate (150 ml). The organic extract was washed with aqueous sodium dihydrogen phosphate (75 ml), sodium bicarbonate (75 ml), and brine (75 ml). After drying (magnesium sulfate) and evaporation, the crude product was then purified by chromatography on a 20 g silica Mega Bond Elut® column, eluting with a gradient from 50–100% ethyl acetate in isohexane. Relevant fractions were combined to give the desired product (305 mg).

reactant | (5RS)-3-(3,4-difluorophenyl)-5-(1,2,3-triazol-1-ylmethyl)-4,5-dihydroisoxazole | 2 mM, 528 mg | FC=1C=C(C=CC1F)C1=NOC(C1)CN1N=NC=C1 | C12H10F2N4O
reactant | potassium carbonate | 3 mM, 414 mg | C([O-])([O-])=O.[K+].[K+]
reactant | thiomorpholine | 7.5 ml | N1CCSCC1 | C4H9NS
product | (5RS)-3-(3-Fluoro-4-thiomorpholin-4-ylphenyl)-5-(1,2,3-triazol-1-ylmethyl)-4,5-dihydroisoxazole | 305 mg | FC=1C=C(C=CC1N1CCSCC1)C1=NOC(C1)CN1N=NC=C1 | C16H18FN5OS
